US05506191
c) Preparation of 2-(1,2-diethoxycarbonyl-1,2,3,6-tetrahydropyridazin-3-yl)-nicotinic acid ethyl ester
9.8 g of 2-(1,3-butadienyl)nicotinic acid ethyl ester and 9.2 g of diethyl-azodicarboxylate are mixed with 30 ml of toluene and heated to 80° under nitrogen. After 1 hr a further 3 g of diethyl-azodicarboxylate are added and after 3 hrs a further 5 g. After a further 4 hrs the reaction mixture is allowed to cool to RT and stirred overnight. The solvent is removed by evaporation under vacuum and the resulting oil chromatographed on silica gel and eluted with ethylacetate/hexane to give the title compound as black oil.

reactant | 2-(1,3-butadienyl)nicotinic acid ethyl ester | 9.8 g | C(C)OC(C1=C(N=CC=C1)C=CC=C)=O | C12H13NO2
reactant | diethyl-azodicarboxylate | 9.2 g | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
reactant | diethyl-azodicarboxylate | 3 g | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(1,2-diethoxycarbonyl-1,2,3,6-tetrahydropyridazin-3-yl)-nicotinic acid ethyl ester | C(C)OC(C1=C(N=CC=C1)C1N(N(CC=C1)C(=O)OCC)C(=O)OCC)=O | C18H23N3O6
